US09428515B2
6-Fluoro-1-isopropyl-3,3-dimethyl-5-nitro-1,3-dihydro-indol-2-one E-1.2″
To a stirred solution of 6-Fluoro-1-isopropyl-3,3-dimethyl-1,3-dihydro-indol-2-one E-1.2′″ (17.0 g; 76.9 mmol) in acetic acid (550 ml) was added fuming HNO3 (8.5 g; 134.9 mmol) at 25° C. The reaction mixture is stirred for 15 min at 25° C. and then concentrate H2SO4 (17.0 g; 173.5 mmol) is added and the mixture is stirred for 30 min at 25° C. After completion of the reaction the reaction mixture was poured in to ice cold water. The obtained solid was filtered and dried. The solid was recrystallized with ethyl acetate to obtain pure compound.

reactant | 6-Fluoro-1-isopropyl-3,3-dimethyl-1,3-dihydro-indol-2-one | FC1=CC=C2C(C(N(C2=C1)C(C)C)=O)(C)C | C13H16FNO
reactant | HNO3 | 134.9 mmol, 8.5 g | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 173.5 mmol, 17.0 g | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 550 ml | C(C)(=O)O | C2H4O2
product | 6-Fluoro-1-isopropyl-3,3-dimethyl-5-nitro-1,3-dihydro-indol-2-one | FC1=C(C=C2C(C(N(C2=C1)C(C)C)=O)(C)C)[N+](=O)[O-] | C13H15FN2O3
